US04977162
10.0 g of 2-hydroxyacetophenone is dissolved in 60 ml of glacial acetic acid. 10.4 ml of nitric acid (specific gravity =1.40) is then added over 2 hours at room temperature. The mixture is stirred for 17 hours, then poured onto ice and the resulting precipitate (containing both the 3- and 5-nitro isomers) collected. The isomers are separated by HPLC to give 4.0 g of 2-hydroxy-3-nitroacetophenone.

reactant | 2-hydroxyacetophenone | 10.0 g | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | nitric acid | 10.4 ml | [N+](=O)(O)[O-] | HNO3
reactant | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 2-hydroxy-3-nitroacetophenone | 4.0 g | CC(=O)C1=C(C(=CC=C1)[N+](=O)[O-])O | C8H7NO4
